US06660744B1
3-(4-Phenoxyphenyl)-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 5.81 mmol), 1H-2-imidazolecarbaldehyde (77 mg, 0.806 mmol), sodium triacetoxyborohydride (113 mg, 0.537 mmol) and glacial acetic acid (48 mg, 0.806 mmol) were mixed with 1,2-dichloroethane (4 mL). The reaction mixture was stirred at room temperature for 6 hours and saturated sodium bicarbonate solution was added to adjust the pH to about 9. The aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (90:10) as mobile phase to give 1-[1-(1H-2-imidazolylmethyl)tetrahydro-1H-3-pyrrolyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 83%). 1H NMR (DMSO-d6) δ 2.33 (m, 2H), 2.81 (m, 4H), 3.15 (m, 1H), 3.69 (s, 2H), 5.38 (m, 1H), 6.90 (s, 2H), 7.15 (m, 5H), 7.44 (m, 2H), 7.66 (m, 2H), 8.24 (s, 1H). LCMS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, PH 4.5), 3.5 mL/min.): MH+453.4, Rt=2.17 min.

reactant | 3-(4-Phenoxyphenyl)-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 5.81 mmol, 100 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CNCC2 | C21H20N6O
reactant | 1H-2-imidazolecarbaldehyde | 0.806 mmol, 77 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium triacetoxyborohydride | 0.537 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.806 mmol, 48 mg | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | 1-[1-(1H-2-imidazolylmethyl)tetrahydro-1H-3-pyrrolyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 100 mg, 83% | N1C(=NC=C1)CN1CC(CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H24N8O
